US05998433
a) Synthesis of 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carbaldehyde
To 30 ml of N,N-dimethylformamide, 0.20 ml (2.3 mmol) of oxalyl chloride was added at -78° C., followed by stirring at room temperature for 15 minutes. To this mixture, a solution of 0.684 g (2.064 mmol) of 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 10 ml of N,N-dimethylformamide was added, followed by overnight stirring at room temperature. After water was added, the reaction mixture was extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel flush column chromatography (hexane/ethyl acetate=1/1 to 1/3) to yield the desired product.

reactant | oxalyl chloride | 2.3 mmol, 0.20 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 2.064 mmol, 0.684 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=CO3)C=C1 | C21H17NO3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carbaldehyde | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)C=O)C=C1 | C22H17NO4
